US07754737B2
Step 4. tert-Butyl (S)-1-(methylamino)-3-(4-methylcyclohexyl)propan-2-ylcarbamate
To a solution of tert-butyl (S)-1-(methylcarbamoyl)-2-(4-methylcyclohexyl)ethylcarbamate (1.0075 g, 3.38 mmol, 1.0 equiv) in THF (40 mL) at 0° C. under N2 was added 1.0 M LiAlH4 in THF (7 mL, 7 mmol, 2.1 equiv). The mixture was stirred at rt for 19 h and sodium sulfate decahydrate (6.45 g, 20 mmol) was added carefully to quench excess LiAlH4. The mixture was filtered and the solid was washed with ether. After the solvents were removed in vacuo, the crude product (1.04 g) was used in the next step without further purification. LC-MS (3 min) tR=1.37 min, m/z 285 (MH+), 229.

reactant | tert-butyl (S)-1-(methylcarbamoyl)-2-(4-methylcyclohexyl)ethylcarbamate | 3.38 mmol, 1.0075 g, 1.0 equiv | CNC(=O)[C@H](CC1CCC(CC1)C)NC(OC(C)(C)C)=O | C16H30N2O3
reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium sulfate decahydrate | 20 mmol, 6.45 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mmol, 7 mL, 2.1 equiv | C1CCOC1 | C4H8O
product | tert-Butyl (S)-1-(methylamino)-3-(4-methylcyclohexyl)propan-2-ylcarbamate | CNC[C@H](CC1CCC(CC1)C)NC(OC(C)(C)C)=O | C16H32N2O2
